US05338855
5-{4-[3-(3,5,6-Trimethyl-1,4-benzoquinon-2-yl)propoxy]benzylidene}thiazolidine-2,4-dion e (Compound No. 3-3)
Following a procedure similar to that described in Example 1, but using 15.8 g of 5-{4-[3-(2,5-dimethoxy-3,4,6-trimethylphenyl)propoxy]benzyl}thiazolidine-2,4-dione (prepared as described in Preparation 4), 78.1 g of ceric ammonium nitrate and 350 ml of acetonitrile, 1.7 g of the title compound, melting at 230°-232° C., were obtained.

reactant | 5-{4-[3-(2,5-dimethoxy-3,4,6-trimethylphenyl)propoxy]benzyl}thiazolidine-2,4-dione | 15.8 g | COC1=C(C(=C(C(=C1C)C)OC)C)CCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C24H29NO5S
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | 5-{4-[3-(3,5,6-Trimethyl-1,4-benzoquinon-2-yl)propoxy]benzylidene}thiazolidine-2,4-dion e | 1.7 g | CC1=C(C(C(=C(C1=O)C)C)=O)CCCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C22H21NO5S
